US04215050
26.4 g (0.1 mol) of 2-acetyl-3-(2',2'-dichlorovinyl)-4-ethyl-γ-valerolactone were dissolved in 100 ml of dioxane. Technical grade hypochlorite solution was then added dropwise at 20-30° C. in an amount such that a total of 0.5 mol of hypochlorite had been added. The mixture was heated to the boil for a further 3-4 hours, any hypochlorite still present was destroyed with sodium bisulphite solution and the mixture was adjusted to pH 1 with 25% strength sulphuric acid. It was then extracted with methylene chloride and the organic phase was subjected to fractional distillation. 16.7 g (75% of theory) of 3-(2',2'-dichlorovinyl)-4-ethyl-γ-valerolactone of boiling point 160°-165° C./20 mm Hg were obtained. Refractive index: nD20 :1.5012.

reactant | 2-acetyl-3-(2',2'-dichlorovinyl)-4-ethyl-γ-valerolactone | 0.1 mol, 26.4 g | C(C)(=O)C1C(=O)OC(C1C=C(Cl)Cl)(C)CC | C11H14Cl2O3
reactant | hypochlorite | Cl[O-]
reactant | hypochlorite | 0.5 mol | Cl[O-]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(2',2'-dichlorovinyl)-4-ethyl-γ-valerolactone | 16.7 g, 75% | ClC(=CC1CC(=O)OC1(C)CC)Cl | C9H12Cl2O2
